2133-02-21 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 RADIATION THERAPY - At [**2133-2-20**] 01:28 PM pt mapped
   - renal rec - trial IVF bolus, resent urine lytes.
   - onc rec - no BM bx for now; given drop in plts, pboots on, gotten a
   HIT antibody (PF4); resent a smear.
   - IP f/u: stent will be rm after tumor shrink s/p radiation.
   - rad onc rec: none - did not complete full xrt of his chest, but got
   treatment to the back. Chest will be done tomorrow AM.
   - Bx result - pnding, called path to get rushed, but heme/onc said not
   going to be back till Sat AM at the earliest.
   - IV bolus if HR increase - given 500cc for IV bolus NS, HR did not
   change will bolus again - 1 L.  Na was 130 after IVF. if HR does not
   respond, then do not give more fluid.
   - f/u urine lytes-> FENA 0.7 c/w prerenal, osm 691, na 118 c/w SIADH
   but Na got better with fluids so unclear at this point .
   - OSH slides: [**Numeric Identifier 12368**] - slides are at [**Hospital3 **].
   - CXR - pneumo resolved.
   - delirious/agitated overnight - needed reassurance and may be due to
   ativan->attending recommended psych consult in am for ?paranoid
   delirium/schizo-affective disorder
   - continue to be agitated/combative throughout the night, question if
   this is coping mechanism vs. delirium vs meta
   - Fever to 100.9 but refusing blood draws so no cultures
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2133-2-20**] 03:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-2-21**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**34**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 127 (120 - 130) bpm
   BP: 99/59(79) {97/56(66) - 132/93(102)} mmHg
   RR: 22 (18 - 38) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.6 kg (admission): 113.6 kg
                  Total In:
                                                                  1,035 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
                                                                    675 mL
   Blood products:
   Total out:
                                                                  1,515 mL
                                                                    580 mL
   Urine:
                                                                  1,515 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -480 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   GEN: diaphoretic, tachpneic
   HEENT: moist mucous membranes, + ? exopthalmous
   Neck: buffalo hump
   CV: Tachycardic, no m/r/g
   Pulm: CTA b/l
   Abd: Obese, soft, NT, ND, bowel sounds present
   Ext: 5/5 strength in LE bilaterally,
   Labs / Radiology
   111 K/uL
   9.9 g/dL
   142 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.0 mEq/L
   22 mg/dL
   99 mEq/L
   130 mEq/L
   27.3 %
   21.6 K/uL
        [image002.jpg]
                             [**2133-2-19**]  02:25 AM
                             [**2133-2-19**]  05:55 AM
                             [**2133-2-19**]  11:23 AM
                             [**2133-2-20**]  01:52 AM
                             [**2133-2-20**]  04:21 PM
                             [**2133-2-20**]  04:22 PM
   WBC
   30.7
   25.9
   25.0
   21.6
   Hct
   26.7
   29.8
   30.1
   27.3
   27.3
   Plt
   [**Telephone/Fax (3) 12338**]11
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   TropT
   0.18
   Glucose
   [**Telephone/Fax (3) 12339**]09
   142
   Other labs: PT / PTT / INR:13.8/30.2/1.2, CK / CKMB /
   Troponin-T:139/9/0.18, ALT / AST:28/44, Alk Phos / T Bili:581/1.9,
   Differential-Neuts:75.0 %, Band:3.0 %, Lymph:16.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:243 mg/dL, Albumin:3.1 g/dL, LDH:3820 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Mr. [**Known firstname 12347**] [**Last Name (Titles) 12348**] is a 44 yo male with a newly diagnosed lung mass
   admitted with SOB likely secondary to compression of airway by lung
   mass.
   .
   1.  SOB.  SOB is likely secondary to large lung mass with compression
   of bronchus.  CTA negative for PE.  Echo showed apical akinesis with EF
   of 35% but cardiac cath was negative for CAD.  Patient is s/p rigid
   bronch with biopsy and stent placement.  No current evidence of
   pneumonia.  ?small pneumomediastinum noted on CXR also noted following
   stent placement and biopsy now no longer on CXR.   His respiratory
   status decompensated and had hypoxia/hypercapnia, with altered mental
   status.
   - intubation will be done
   - after intubation will need to go to XRT for pulm mass treatment and
   other studies
   .
   2.  Lung mass.  S/p biopsy by rigid bronch. Prior pathology suggestive
   of NSCLC, adenocarcinoma, but not conclusive.  Lung mass is likely the
   source of patient's SOB and therefor would benefit from XRT.
   - onc following
   - continue XRT
   - tracheal stent placed, will be rm
d after XRT done
   - f/u on pathology both in house and OSH.
   .
   3. altered mental status: agitation and combativeness was noted,
   thought to be a combination of medication induced, metabolic
   abnormality, possible a component of baseline personality/coping
   mechanism.
   - r/o bleed or tumor involvment by MRI of head
   - sedation on ventilator for treatment
   .
   4.  Hyponatremia.  Patient had altered mental status and hyponatrmia.
   Renal feels this is consistent with siadh +/- hypovelemia.
   - Fluid restrict (pt [**Name (NI) 2938**]
   - Obtain records for baseline Na
   - f/u renal recs
   - question if free water restrcition < 1000 mL/day is necessary
   .
   5.  Tachycardia.  [**Month (only) 8**] be secondary to dehydration.  Also possibilty
   secondary to pain (though appears comfortable at present).  [**Month (only) 8**] be
   secondary to large lung mass and also possibly secondary to the
   pneumomediastinum.
   - monitor on tele, ivf boluses
   - pain control
   - could be [**12-23**] infection, follow Bcx
   .
   6.  Leukocytosis.  No clear evidence of infection, but at risk for
   post-obstructive PNA.  WBC trending down without antibiotics. Likely
   secondary to prednisone use prior to admission for ?back pain.
   - f/u cultures
   .
   7.  Takotsubo.  EKG with ST elevations, but cardiac cath negative.
   Echo also showed extensive anteroapical akinesis with EF of 35%.  This
   is likely secondary to tkotsubo cardiomyotathy.
   - follow up as opt for echo
   .
   8.  Anemia.  Baseline Hct unknown and no clear source of bleeding.
   Likely secondary to anemia of chronic disease.
   - trend Hct
   - obtain baseline Hct
   - anemia studies
   .
   9. Sinus tachycardia.  Likely secondary to respiratory distress +/-
   dehydration.
   - monitor on tele
   .
   10.  Back pain.  Back pain is secondary to pathological L4 fracture and
   invasion of T11, T12 and L5 with metastatic disease.
   - Dilaudid 0.5mg IV Q3H PRN
   - Tylenol 1gm PO TID standing
   - Bowel reg
   .
   FEN: NPO except meds, fluid restrictions
   ACCESS: 2 PIV's
   PROPHYLAXIS:  Lovenox PPx, bowel regimen given chronic opioid use, PPI
   CODE: Full
   COMM: [**Name (NI) **] and patient's wife
   DISPO: ICU pending stabilization of respiratory status
 THROMBOCYTOPENIA, ACUTE
 THYROID DISORDER, OTHER (INCLUDING THYROIDITIS)
 CANCER (MALIGNANT NEOPLASM), LUNG
 PULMONARY NODULE (LUNG NODULE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 TACHYCARDIA, OTHER
 DYSPNEA (SHORTNESS OF BREATH)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-2-19**] 08:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2133-02-22 11:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2133-2-21**] 11:50 AM
 RADIATION THERAPY - At [**2133-2-21**] 01:30 PM
 MULTI LUMEN - START [**2133-2-21**] 02:00 PM
 MAGNETIC RESONANCE IMAGING - At [**2133-2-21**] 06:59 PM
   head with contrast
 URINE CULTURE - At [**2133-2-21**] 08:02 PM
 ARTERIAL LINE - START [**2133-2-22**] 01:44 AM
 FEVER - 101.6
F - [**2133-2-22**] 04:00 AM
   - Dehydration, diaphoresis, prerenal lytes: d/c fluid restriction,
   maintenance fluids (1L at 0940)
   - Febrile temp yesterday: thinking it is related to his bronch; f/u bcx
   - Hemolysis labs: Fibrinogen 409
   - VBG suggests significant alkalosis
   - Mental status change: drug effect vs brain lesion vs ttp: patient was
   disoriented this AM in the setting of SpO2 85 (off of O2).
   - Heading towards intubation --> MS change, freq. desats, need for head
   imaging (MRI), radiation --> intubated --> patient pulled tube out an
   inch or two --> brady'd to 30-40 for a few seconds --> stabilized but
   sBP < 80
   - Placed Femoral line because IJ access was blocked by cystic lesions
   in the neck
   - Started Pressors to aid sedation (hypotensive with propofol)
   - RADONC -> received double dose to lung and one to the spine -->
   required 10mg of Versed and 300 of fentanyl to sedate enough for the
   procedure
   - MRI: paged two radiology residents to read the MRI - none of them did
   --> some (6) punctate lesions in grey matter of undetermined
   significance
   - Aline - attempted on right x 2, placed on left. Infiltratred at 0530.
   - Febrile + WBC 17.8 + Pressors = Vanc and Cefepime
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2133-2-22**] 03:15 AM
   Vancomycin - [**2133-2-22**] 08:28 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Propofol - [**2133-2-21**] 12:00 PM
   Midazolam (Versed) - [**2133-2-22**] 05:00 AM
   Fentanyl - [**2133-2-22**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-2-22**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**34**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.6
C (99.7
   HR: 126 (83 - 128) bpm
   BP: 105/65(72) {84/56(64) - 137/87(91)} mmHg
   RR: 19 (19 - 32) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.6 kg (admission): 113.6 kg
             Total In:
                                                                  3,473 mL
                                                                  1,123 mL
   PO:
             TF:
   IVF:
                                                                  3,473 mL
                                                                  1,123 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    270 mL
   Urine:
                                                                  1,215 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,258 mL
                                                                    853 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 600) mL
   Vt (Spontaneous): 771 (720 - 811) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.40/37/65/21/0
   Ve: 16.7 L/min
   PaO2 / FiO2: 130
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   111 K/uL
   8.2 g/dL
   181 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.8 mEq/L
   26 mg/dL
   108 mEq/L
   139 mEq/L
   23.6 %
   17.8 K/uL
        [image002.jpg]
                             [**2133-2-19**]  11:23 AM
                             [**2133-2-20**]  01:52 AM
                             [**2133-2-20**]  04:21 PM
                             [**2133-2-20**]  04:22 PM
                             [**2133-2-21**]  07:35 AM
                             [**2133-2-21**]  10:32 AM
                             [**2133-2-22**]  01:49 AM
                             [**2133-2-22**]  02:04 AM
                             [**2133-2-22**]  05:37 AM
                             [**2133-2-22**]  09:17 AM
   WBC
   25.0
   21.6
   15.9
   17.8
   Hct
   30.1
   27.3
   27.3
   25.6
   23.6
   Plt
   181
   111
   108
   111
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   TCO2
   24
   22
   24
   24
   Glucose
   119
   109
   142
   139
   181
   Other labs: PT / PTT / INR:14.9/29.1/1.3, CK / CKMB /
   Troponin-T:139/9/0.18, ALT / AST:27/24, Alk Phos / T Bili:347/1.2,
   Amylase / Lipase:33/28, Differential-Neuts:81.0 %, Band:4.0 %,
   Lymph:10.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:403 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:[**2095**] IU/L, Ca++:8.1 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 THROMBOCYTOPENIA, ACUTE
 THYROID DISORDER, OTHER (INCLUDING THYROIDITIS)
 CANCER (MALIGNANT NEOPLASM), LUNG
 PULMONARY NODULE (LUNG NODULE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 TACHYCARDIA, OTHER
 DYSPNEA (SHORTNESS OF BREATH)
   Mr. [**Known firstname 12347**] [**Last Name (Titles) 12348**] is a 44 yo male with a newly diagnosed lung mass
   admitted with SOB likely secondary to compression of airway by lung
   mass.
   .
   1.  SOB.  SOB is likely secondary to large lung mass with compression
   of bronchus.  CTA negative for PE.  Echo showed apical akinesis with EF
   of 35% but cardiac cath was negative for CAD.  Patient is s/p rigid
   bronch with biopsy and stent placement.  No current evidence of
   pneumonia.  ?small pneumomediastinum noted on CXR also noted following
   stent placement and biopsy now no longer on CXR.   His respiratory
   status decompensated and had hypoxia/hypercapnia, with altered mental
   status.  Intubated on [**2-22**] for AMS and the need for radiation, MRI.
   there was some trauma and febrile temps on [**2-22**] as well as mild bump in
   WBC
   - D1 of vanc/cefepime in [**2-22**], continue as long as intubate
   - aim to remove sedation, using propofol bridge
   - radiation to resume on monday
   .
   # Hypotension - patient became hypotension with sedation and
   ventilation. Requires Levophed
   - wean sedation
   - treat possible infection
   - pressor support as needed
   .
   2.  Lung mass.  S/p biopsy by rigid bronch. Prior pathology suggestive
   of NSCLC, adenocarcinoma, but not conclusive.  Lung mass is likely the
   source of patient's SOB and therefor would benefit from XRT.
   - onc following
   - continue XRT
   - tracheal stent placed, will be rm
d after XRT done
   - f/u on pathology both in house and OSH.
   .
   3. altered mental status: agitation and combativeness was noted,
   thought to be a combination of medication induced, metabolic
   abnormality, possible a component coping mechanism.
   - r/o bleed or tumor involvment by MRI of head
   - sedation on ventilator for treatment
   .
   4.  Hyponatremia.  Patient had altered mental status and hyponatrmia.
   Renal feels this is consistent with siadh +/- hypovelemia. It resolved
   with fluid replacement
   - trend Na
   .
   5.  Tachycardia.  [**Month (only) 8**] be secondary to dehydration.  Also possibilty
   secondary to pain (though appears comfortable at present).  [**Month (only) 8**] be
   secondary to large lung mass and also possibly secondary to the
   pneumomediastinum.
   - monitor on tele, ivf boluses
   - pain control
   - could be [**12-23**] infection, follow Bcx
   .
   6.  Leukocytosis.  No clear evidence of infection, but at risk for
   post-obstructive PNA.  WBC trending down without antibiotics. Likely
   secondary to prednisone use prior to admission for ?back pain.
   - f/u cultures
   .
   7.  Takotsubo.  EKG with ST elevations, but cardiac cath negative.
   Echo also showed extensive anteroapical akinesis with EF of 35%.  This
   is likely secondary to tkotsubo cardiomyotathy.
   - follow up as opt for echo
   .
   8.  Anemia.  Baseline Hct unknown and no clear source of bleeding.
   Likely secondary to anemia of chronic disease.
   - trend Hct
   .
   9. Sinus tachycardia.  Likely secondary to respiratory distress +/-
   dehydration.
   - monitor on tele
   .
   10.  Back pain.  Back pain is secondary to pathological L4 fracture and
   invasion of T11, T12 and L5 with metastatic disease.
   - Dilaudid 0.5mg IV Q3H PRN
   - Tylenol 1gm PO TID standing
   - Bowel reg
   .
   FEN: NPO except meds, fluid restrictions
   ACCESS: 2 PIV's
   PROPHYLAXIS:  Lovenox PPx, bowel regimen given chronic opioid use, PPI
   CODE: Full
   COMM: [**Name (NI) **] and patient's wife
   DISPO: ICU pending stabilization of respiratory status
 THROMBOCYTOPENIA, ACUTE
 THYROID DISORDER, OTHER (INCLUDING THYROIDITIS)
 CANCER (MALIGNANT NEOPLASM), LUNG
 PULMONARY NODULE (LUNG NODULE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 TACHYCARDIA, OTHER
 DYSPNEA (SHORTNESS OF BREATH)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-2-19**] 08:00 AM
   Multi Lumen - [**2133-2-21**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2133-02-23 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2133-2-22**] 08:02 AM
 FEVER - 102.6
F - [**2133-2-23**] 02:00 AM
   - Onc: will review peripheral smear, recommending CT abd/pelvis for
   staging
   - CT Abd/Pelvis: path fracture of L4, bilateral adrenal nodules
   (incompletely characterized), liver lesions incompletely
   characterized).  Ground glass opacities in lung noted, may indicate
   interval development of infectious process.
   - Sputum culture - 4+ GPCs, increasing pulmonary secretions
   - Increased PEEP to 10 and incraesed FIO2 to 50% due to desaturations
   - sent off HIT panel
   - febrile to 101.9
   - a-line placement unsuccessful; sent ABG instead, which was WNL
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2133-2-22**] 07:47 PM
   Cefipime - [**2133-2-23**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Norepinephrine - 0.18 mcg/Kg/[**Year (4 digits) **]
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2133-2-22**] 06:18 PM
   Fentanyl - [**2133-2-22**] 06:18 PM
   Lansoprazole (Prevacid) - [**2133-2-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-2-23**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**34**] AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.6
C (101.5
   HR: 128 (119 - 135) bpm
   BP: 89/56(62) {83/55(62) - 123/74(79)} mmHg
   RR: 22 (10 - 22) insp/[**Year (2 digits) **]
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.6 kg (admission): 113.6 kg
             Total In:
                                                                  1,969 mL
                                                                  1,064 mL
   PO:
             TF:
   IVF:
                                                                  1,969 mL
                                                                  1,004 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    455 mL
   Urine:
                                                                  1,200 mL
                                                                    455 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                    589 mL
                                                                    609 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 756 (713 - 902) mL
   PS : 10 cmH2O
   RR (Set): 28
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: 7.44/35/178/23/0
   Ve: 14.5 L/[**Year (2 digits) **]
   PaO2 / FiO2: 445
   Physical Examination
   GEN: diaphoretic, tachpneic
   HEENT: moist mucous membranes, + ? exopthalmous
   Neck: buffalo hump
   CV: Tachycardic, no m/r/g
   Pulm: CTA b/l
   Abd: Obese, soft, NT, ND, bowel sounds present
   Ext: 5/5 strength in LE bilaterally
   Labs / Radiology
   31 K/uL
   6.1 g/dL
   162 mg/dL
   1.0 mg/dL
   23 mEq/L
   5.6 mEq/L
   45 mg/dL
   112 mEq/L
   143 mEq/L
   18.0 %
   13.6 K/uL
        [image002.jpg]
                             [**2133-2-20**]  04:22 PM
                             [**2133-2-21**]  07:35 AM
                             [**2133-2-21**]  10:32 AM
                             [**2133-2-22**]  01:49 AM
                             [**2133-2-22**]  02:04 AM
                             [**2133-2-22**]  05:37 AM
                             [**2133-2-22**]  09:17 AM
                             [**2133-2-22**]  07:26 PM
                             [**2133-2-23**]  04:28 AM
                             [**2133-2-23**]  05:15 AM
   WBC
   15.9
   17.8
   13.6
   Hct
   27.3
   25.6
   23.6
   18.0
   18.0
   Plt
   108
   111
   30
   31
   Cr
   0.5
   0.6
   1.0
   TCO2
   24
   22
   24
   24
   25
   Glucose
   139
   181
   162
   Other labs: PT / PTT / INR:14.9/29.1/1.3, CK / CKMB /
   Troponin-T:139/9/0.18, ALT / AST:27/24, Alk Phos / T Bili:347/1.2,
   Amylase / Lipase:33/28, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:412 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:1783 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.7 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   Mr. [**Known firstname 12347**] [**Last Name (Titles) 12348**] is a 44 yo male with a newly diagnosed lung mass
   admitted with SOB likely secondary to compression of airway by lung
   mass.
   .
   1.  SOB.  SOB is likely secondary to large lung mass with compression
   of bronchus.  CTA negative for PE.  Echo showed apical akinesis with EF
   of 35% but cardiac cath was negative for CAD.  Patient is s/p rigid
   bronch with biopsy and stent placement.  No current evidence of
   pneumonia.  ?small pneumomediastinum noted on CXR also noted following
   stent placement and biopsy now no longer on CXR.   His respiratory
   status decompensated and had hypoxia/hypercapnia, with altered mental
   status.  Intubated on [**2-22**] for AMS and the need for radiation, MRI.
   there was some trauma and febrile temps on [**2-22**] as well as mild bump in
   WBC
   - D1 of vanc/cefepime on [**2-22**] for presumed pneumonia, continue as long
   as intubate. Positive GPC in sputum, f/up sputum cx, contact
   precautions
   - continue current vent settings, attempt to place A-line for ABG
   assessment
   - aim to remove sedation, using propofol bridge
   - radiation to resume on monday
   .
   # Hypotension - patient became hypotension with sedation and
   ventilation. Requires Levophed
   - wean sedation
   - treat possible infection
   - pressor support as needed
   - f/up hemodynamic status after receiving 3 units PRBC, adjust pressor
   support accordingly given possible preload-dependence
   .
   2.  Lung mass.  S/p biopsy by rigid bronch. Prior pathology suggestive
   of NSCLC, adenocarcinoma, but not conclusive.  Lung mass is likely the
   source of patient's SOB and therefor would benefit from XRT.
   - onc following
   - continue XRT
   - tracheal stent placed, will be rm
d after XRT done
   - f/u on pathology both in house and OSH.
   .
   3. altered mental status: agitation and combativeness was noted,
   thought to be a combination of medication induced, metabolic
   abnormality, possible a component coping mechanism.
   - r/o bleed or tumor involvment by MRI of head
   - sedation on ventilator for treatment
   .
   4.  Hyponatremia.  Patient had altered mental status and hyponatrmia.
   Renal feels this is consistent with SIADH +/- hypovolemia. It has
   resolved with fluid replacement
   - trend Na
   .
   5.  Tachycardia.  [**Month (only) 8**] be secondary to dehydration.  Also possibilty
   secondary to pain (though appears comfortable at present).  [**Month (only) 8**] be
   secondary to large lung mass and also possibly secondary to the
   pneumomediastinum.
   - monitor on tele, ivf boluses
   - pain control
   - could be [**12-23**] infection, follow Bcx
   .
   6.  Leukocytosis.  No clear evidence of infection, but at risk for
   post-obstructive PNA.  WBC trending down without antibiotics. Likely
   secondary to prednisone use prior to admission for ?back pain.
   - f/u cultures
   .
   7.  Takotsubo.  EKG with ST elevations, but cardiac cath negative.
   Echo also showed extensive anteroapical akinesis with EF of 35%.  This
   is likely secondary to tkotsubo cardiomyotathy.
   - repeat echo today
   .
   8.  Anemia/thrombocytopenia.  Baseline Hct/plt unknown and no clear
   source of bleeding. Likely secondary to anemia of chronic disease vs.
   hemolysis. Plt decrease could be secondary to DIC
   - trend Hct, plt
   - transfuse 3 units PRBC today, goal hct > 26, plt >30
   - f/up smears, DIC labs for possible microangiopathic hemolytic anemia
   - f/up Hem/Onc recs
   .
   9. Sinus tachycardia.  Likely secondary to respiratory distress +/-
   dehydration.
   - monitor on tele
   .
   10.  Back pain.  Back pain is secondary to pathological L4 fracture and
   invasion of T11, T12 and L5 with metastatic disease.
   - Dilaudid 0.5mg IV Q3H PRN
   - Tylenol 1gm PO TID standing
   - Bowel reg
   .
   FEN: NPO except meds, fluid restrictions
   ACCESS: 2 PIV's
   PROPHYLAXIS:  pboots, bowel regimen given chronic opioid use, PPI
   CODE: Full
   COMM: [**Name (NI) **] and patient's wife
   DISPO: ICU pending stabilization of respiratory status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2133-2-21**] 02:00 PM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: